US04683303
(e) Preparation of methyl ((3S,4S)-4-acetoxy-3-benzyloxycarbonylaminoazetidin-2-on-1-yl)-2-oxoacetate
Into a solution of 970 mg (2.5 mmol) methyl 2-((3S,4S)-4-acetoxy-3-benzyloxycarbonylaminoazetidin-2-on-1-yl)-3-methylbut-2-enoate in 40 ml of methanol, at -10° C., for 120 minutes a mixture of ozone and oxygen is introduced at a rate of 0.1 mmol per minute. The clear solution is diluted with 60 ml of methylene chloride and the mixture subsequently washed with 50 ml of aqueous sodium bisulfite solution (10%) and 100 ml of saturated sodium chloride solution. After drying of the organic layer over sodium sulfate, filtration and evaporation of the filtrate in vacuo 780 mg of a noncrystalline solid is obtained (86%) (title compound). IR spectrum in methylene chloride: 3400, 1835, 1755, 1720 and 1510 cm-1.

reactant | methyl 2-((3S,4S)-4-acetoxy-3-benzyloxycarbonylaminoazetidin-2-on-1-yl)-3-methylbut-2-enoate | 2.5 mmol, 970 mg | C(C)(=O)O[C@H]1[C@@H](C(N1C(C(=O)OC)=C(C)C)=O)NC(=O)OCC1=CC=CC=C1 | C19H22N2O7
reactant | ozone | O=[O+][O-] | O3
reactant | oxygen | O=O | O2
solvent | methanol | 40 ml | CO | CH4O
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | methyl ((3S,4S)-4-acetoxy-3-benzyloxycarbonylaminoazetidin-2-on-1-yl)-2-oxoacetate | C(C)(=O)O[C@H]1[C@@H](C(N1C(C(=O)OC)=O)=O)NC(=O)OCC1=CC=CC=C1 | C16H16N2O8
